US07498337B2
5-(2-fluoropyridin-3-yl)-1H-pyrrole-3-carbaldehyde
5-(2-Fluoropyridin-3-yl)-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde (2.25 g) was dissolved in methanol (20 mL) and tetrahydrofuran (20 mL), a 8 mol/L aqueous sodium hydroxide solution (20 mL) was added dropwise at room temperature and the mixture was stirred for 1 hr. The reaction mixture was diluted with saturated brine, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Ethyl acetate was added to the residue and insoluble crystals were collected by filtration to give the title compound as pale-brown crystals (yield 1.03 g, 79%).

reactant | 5-(2-Fluoropyridin-3-yl)-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | 2.25 g | FC1=NC=CC=C1C1=CC(=CN1S(=O)(=O)C1=CC=CC=C1)C=O | C16H11FN2O3S
reactant | sodium hydroxide | 8 mol/L, 20 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 5-(2-fluoropyridin-3-yl)-1H-pyrrole-3-carbaldehyde | yield 1.03 g, 79% | FC1=NC=CC=C1C1=CC(=CN1)C=O | C10H7FN2O
